US04886817
A solution of 11 g of N-(4-pyridyl)ethylenediamine and 5.3 g of 2-nitrocinnamyl chloride (trans-form) dissolved in 60 ml of ethanol was stirred at room temperature for 30 minutes and then stirred at 50° C. for 90 minutes. The solvent was distilled off under reduced pressure, and 10% aqueous sodium hydroxide was added to the residue and the mixture was extracted with chloroform. After drying of the extract, chloroform was distilled off and the residue was purified by silica gel column chromatography (solvent: chloroform-methanol-triethylamine=20:1:0.1) to give 2.33 g of (E)-N-(2-nitrocinnamyl)-N'-(4-pyridyl)ethyenediamine as a yellow oily substance.

reactant | N-(4-pyridyl)ethylenediamine | 11 g | N1=CC=C(C=C1)NCCN | C7H11N3
reactant | 2-nitrocinnamyl chloride | 5.3 g | [N+](=O)([O-])C1=C(C=CCCl)C=CC=C1 | C9H8ClNO2
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | (E)-N-(2-nitrocinnamyl)-N'-(4-pyridyl)ethyenediamine | 2.33 g | [N+](=O)([O-])C1=C(/C=C/CNCCNC2=CC=NC=C2)C=CC=C1 | C16H18N4O2
